US07723384B2
1-{4-[4-(2-tert-Butyl-6-methylpyrimidin-4-yl)piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione hydrochloride
Analogously to Example 3b, reaction of 2-tert-butyl-4-methyl-6-piperazin-1-ylpyrimidine (1.97 mmol, 0.46 g) with 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione afforded 0.31 g of the title compound.

reactant | 2-tert-butyl-4-methyl-6-piperazin-1-ylpyrimidine | 1.97 mmol, 0.46 g | C(C)(C)(C)C1=NC(=CC(=N1)C)N1CCNCC1 | C13H22N4
reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
product | 1-{4-[4-(2-tert-Butyl-6-methylpyrimidin-4-yl)piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione hydrochloride | 0.31 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(CCC(C2=C1C=CC=C2)=O)=O)C | InChI=1S/C27H37N5O2.ClH/c1-20-19-24(29-26(28-20)27(2,3)4)31-17-15-30(16-18-31)13-7-8-14-32-22-10-6-5-9-21(22)23(33)11-12-25(32)34;/h5-6,9-10,19H,7-8,11-18H2,1-4H3;1H
